### PR TITLE
rt cleanup + some bits for reply_remove_tcb corres

### PR DESCRIPTION
**Pull request by mktnk3**
This PR contains more of the on-going cleanup, as well as several small additions and abstractions that are part of the `reply_remove_tcb_corres` PR (#180 ).

At this point, I am giving up on merging #180 as is mainly because of the complications from reply related duplications and changes. This contains part of that PR that can be merged without more work. For the rest, I am planning to quickly redo it on top of the current rt, and will include there some refactors for reusing some part for `replyRemove` and `replyPop`.

A full description of `sr_inv_ul` can be found in #160 .

### CODE REVIEW

**Review by michaelmcinerney — APPROVED** [review]
Nice. 

It would be great to merge this soon. In particular, I'm wanting that `monadic_rewrite` lemma for the `corres` rules for the refill functions

File: lib/Heap_List.thy [hunk 1]
```diff
@@ -267,4 +267,73 @@ lemma heap_ls_next_not_in:
   \<Longrightarrow> np \<notin> set xs"
   by (fastforce dest!: heap_ls_prev_cases[simplified])
 
+(* more on heap_path *)
+
+(* moved from ListLibLemmas *)
+lemma distinct_inj_middle: "distinct list \<Longrightarrow> list = (xa @ x # xb) \<Longrightarrow> list = (ya @ x # yb) \<Longrightarrow> xa = ya \<and> xb = yb"
```
Comment (MitchellBuckley) [inline lib/Heap_List.thy:273]: nit: while we're moving it, rename all variables?

File: lib/Corres_UL.thy [hunk 2]
```diff
@@ -1536,4 +1541,92 @@ lemma corres_assert_opt_assume_l:
...
+  shows "corres_underlying sr nf nf' r P P' (return x) f"
+  using sr ex
+  apply (clarsimp simp: sr_inv_ul_def corres_underlying_def return_def)
+  apply (clarsimp simp: no_failD[OF nf'[simplified]] valid_def)
+  apply (drule_tac x=b in spec, clarsimp)
+  done
+
+(* corres_symb_exec_r_sr basically combines the two lemmas corres_split_noop_rhs and corres_noop
+   in one and separates out the sr_inv part *)
+lemma corres_symb_exec_r_sr:
```
Comment (MitchellBuckley) [inline lib/Corres_UL.thy:1604]: Nice.

**Review by MitchellBuckley — APPROVED** [review]
This looks great! Really like it!

**Review by VictorPhan — APPROVED** [review]

File: lib/Corres_UL.thy [hunk 3]
```diff
@@ -1536,4 +1541,92 @@ lemma corres_assert_opt_assume_l:
   \<Longrightarrow> corres_underlying sr nf nf' rrel (P and K (X \<noteq> None)) Q (assert_opt X >>= f) g"
   by (force simp: corres_underlying_def assert_opt_def return_def bind_def fail_def)
 
+section \<open> Preservation of state_relation for the concrete side symbolic execution \<close>
+
+(** sr_inv **)
+
+definition
+  sr_inv_ul :: "('a \<times> 'b) set \<Rightarrow> ('a \<Rightarrow> bool) \<Rightarrow> ('b \<Rightarrow> bool) \<Rightarrow> ('b \<Rightarrow> (unit \<times> 'b) set \<times> 'c) \<Rightarrow> bool" where
```
Comment (corlewis) [inline lib/Corres_UL.thy:1549]: It's not blocking, but I think it would be nice if there was a comment describing the intention behind this definition.

File: lib/Corres_UL.thy [hunk 4]
```diff
@@ -1536,4 +1541,92 @@ lemma corres_assert_opt_assume_l:
...
+  apply (drule_tac x=x in meta_spec)
+  apply (drule_tac x=s and y=s'' in spec2)
+  apply (drule_tac x=t' in spec)
+  apply (drule_tac x="(x, s'')" in bspec, simp)
+  apply simp
+  done
+
+lemma corres_noop_sr:
+  assumes sr: "sr_inv_ul sr P P' f"
+  assumes ex: "\<lbrace> P' \<rbrace> f \<lbrace>\<lambda>rv _. r x rv\<rbrace>"
```
Comment (corlewis) [inline lib/Corres_UL.thy:1593]: tiny nitpick: inconsistent spacing in the conditions
```suggestion
  assumes ex: "\<lbrace>P'\<rbrace> f \<lbrace>\<lambda>rv _. r x rv\<rbrace>"
```

File: lib/Corres_UL.thy (hunk 2 above)
Comment (corlewis) [reply lib/Corres_UL.thy:1604]: Agreed!

File: lib/MonadicRewrite.thy [hunk 5]
```diff
@@ -507,6 +507,30 @@ next
     by (fastforce simp: corres_underlying_def split_def)
 qed
 
+lemma monadic_rewrite_corres':
```
Comment (corlewis) [inline lib/MonadicRewrite.thy:510]: This is another place where we're a bit inconsistent in naming schemes. Do people have a preference between `monadic_rewrite_corres` / `monadic_rewrite_corres'` and `monadic_rewrite_corres_lhs` / `monadic_rewrite_corres_rhs`?

File: proof/refine/ARM/Reply_R.thy [hunk 6]
```diff
@@ -1035,4 +1035,68 @@ lemma updateReply_replyNext_Nothing_invs':
                   dest: pspace_alignedD' pspace_distinctD')
   done
 
+context begin interpretation Arch .
+
+lemma pspace_relation_reply_update_conc_only:
+  "\<lbrakk> pspace_relation ps ps'; ps x = Some (Structures_A.Reply reply); ps' x = Some (KOReply reply');
+     reply_relation reply new\<rbrakk>
+   \<Longrightarrow> pspace_relation ps (ps'(x \<mapsto> (KOReply new)))"
```
Comment (corlewis) [inline proof/refine/ARM/Reply_R.thy:1043]: Out of curiosity, do you remember why this needed `Arch`?

**Review by corlewis — APPROVED** [review]

File: lib/Heap_List.thy (hunk 1 above)
Comment (mktnk3) [reply lib/Heap_List.thy:273]: How they are currently named makes enough sense to me, but what change are you suggesting?

Comment (MitchellBuckley) [reply lib/Heap_List.thy:273]: Maybe `prex @ x # postx` and `prey @ y # posty`? Its just that `xa` and `xb` look like auto-generated names. But this is a nitpick.

File: lib/MonadicRewrite.thy (hunk 5 above)
Comment (mktnk3) [reply lib/MonadicRewrite.thy:510]: I guess there’s also the `xxx_l` and `xxx_r` version, too. I think using `’` to mean things about the concrete side is concise and nice, particularly when the thing itself is short, but it can be used to represent something else, too.

I am not sure how much effort we want to put in this particular case, though, since these rules are not used very much.

File: proof/refine/ARM/Reply_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1043]: It think this is because of `arch_kernel_obj.split_asm` splitting and simplification around it at the end.

File: lib/Corres_UL.thy (hunk 4 above)
Comment (mktnk3) [reply lib/Corres_UL.thy:1593]: I don’t mind fixing this, but I also kind of like having spaces around `P`, etc., when it is by itself. I think it stands out more with spaces. But I am not consistent with it myself, I suppose.
